US06555563B1
A mixture of 4-hydroxy-1-[4-(methylthio)phenyl]-2-[2-(phenyl)-1,3,4-thiadiazol-5-yl]-4-(trifluoromethyl)-4,5-dihydro-1H-imidazole (0.5 g, 1.15 mmol) and p-toluenesulfonic acid monohydrate (30 mg) in toluene (50 mL) was heated to reflux for 1 hour. After aqueous work up, 1-[4-(Methylthio)phenyl]-2-[2-(phenyl)-1,3,4-thiadiazol-5-yl]-4-(trifluoromethyl)-imidazole was isolated as a white solid.

reactant | 4-hydroxy-1-[4-(methylthio)phenyl]-2-[2-(phenyl)-1,3,4-thiadiazol-5-yl]-4-(trifluoromethyl)-4,5-dihydro-1H-imidazole | 1.15 mmol, 0.5 g | OC1(N=C(N(C1)C1=CC=C(C=C1)SC)C1=NN=C(S1)C1=CC=CC=C1)C(F)(F)F | C19H15F3N4OS2
reactant | p-toluenesulfonic acid monohydrate | 30 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 1-[4-(Methylthio)phenyl]-2-[2-(phenyl)-1,3,4-thiadiazol-5-yl]-4-(trifluoromethyl)-imidazole | CSC1=CC=C(C=C1)N1C(=NC(=C1)C(F)(F)F)C1=NN=C(S1)C1=CC=CC=C1 | C19H13F3N4S2
